US05654326
1-([1,1'-Biphenyl]-3-ylmethyl)-4-hydroxy-2-methyl-1H-indole(1.03 g, 3.3 mmol) was alkylated by treating with 0.31 mL (3.3 mmol) of methyl bromoacetate and 132 mg (3.3 mmol) of 60% NaH/mineral oil in DMF as described in Example 1, Part E. The product was purified by chromatography over silica gel eluting with 20% EtOAc/hexane, to give 1.0 g(79% yield) of [[1-([1,1'-biphenyl]-3-ylmethyl)-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester, 99°-102° C.

reactant | 1-([1,1'-Biphenyl]-3-ylmethyl)-4-hydroxy-2-methyl-1H-indole | 3.3 mmol, 1.03 g | C1(=CC(=CC=C1)CN1C(=CC2=C(C=CC=C12)O)C)C1=CC=CC=C1 | C22H19NO
reactant | methyl bromoacetate | 3.3 mmol, 0.31 mL | BrCC(=O)OC | C3H5BrO2
reactant | NaH | 3.3 mmol, 132 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | [[1-([1,1'-biphenyl]-3-ylmethyl)-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 1.0 g, 79% yield | COC(COC1=C2C=C(N(C2=CC=C1)CC=1C=C(C=CC1)C1=CC=CC=C1)C)=O | C25H23NO3
